US04154852
5.1 g of nitrosyl sulfuric acid were added over 10 minutes at 20° C. to a mixture of 6 g of 2-amino-7-methylamino-6,7-dihydro [5H] benzocycloheptene in 60 ml of acetic acid and the mixture was stirred 2 hours at room temperature. The resulting brown solution was poured into 300 ml of methanol and the mixture was refluxed for 45 minutes and was evaporated to dryness under reduced pressure. The residue was added to 150 ml of water and the neutral fraction was removed by extraction twice with 100 ml of ether. The mixture was alkalinized at 10° C. by addition of sodium hydroxide and was extracted with methylene chloride. The organic phase was washed with water, dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure to obtain 3.7 g of raw product. The latter was chromatographed over silica gel and was eluted with a 7-2-1 chloroform-methanol-triethylamine mixture to obtain a homogenous fraction of 3.4 g of 2-methoxy-7-methylamino-6,7-dihydro [5H] benzocycloheptene in the form of a yellow oil.

reactant | nitrosyl sulfuric acid | 5.1 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | 2-amino-7-methylamino-6,7-dihydro [5H] benzocycloheptene | 6 g | NC=1C=CC2=C(C=CC(CC2)NC)C1 | C12H16N2
reactant | methanol | 300 ml | CO | CH4O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-methoxy-7-methylamino-6,7-dihydro [5H] benzocycloheptene | 3.4 g | COC=1C=CC2=C(C=CC(CC2)NC)C1 | C13H17NO
